US06492400B1
Part C: Preparation of 4-Amino-1, 3-dihydro-4′-[4-fluorophenylmethyl]-spiro[2H-isoindole-2,1′-piperidinium] bromide
1,3-Dihydro-4′-[4-fluorophenylmethyl]-4-nitro-spiro[2H-isoindole-2,1′-piperidinium] bromide (1.03 g, 2.46 mmol, 1.0 eq), zinc (5.32 g, 81.5 mmol, 33.0 eq), and calcium chloride (0.18 g, 1.60 mmol, 0.65 eq) were refluxed under N2 in 25 ml of a 78% ethanol/water solution. The reaction was worked up after 5 hours by filtering through Celite® and rinsing the cake with methanol. The filtrate was concentrated in vacuo to a mixture of water and an amber oil. The mixture was dissolved in 50 ml of 2-propanol, and concentrated in vacuo to remove excess water. The resulting yellow foam was dissolved in methanol and applied to a 3.5 cm×5 cm quartz column via silica plug. The product was eluted with 20% MeOH/CHCl3 to yield 0.81 g of a yellow foam. NMR (300 MHz, DMSO) δ7.27-7.05 (m, 5H), 6.61-6.53 (m, 2H), 5.43-5.41 (m, 2H), 4.80 (bs, 1H), 4.74 (bs, 2H), 4.63 (bs, 1H), 3.62-3.43 (m, 4H), 2.60 (bd, 2H, J=7 Hz), 1.98-1.59 (m, 5H).

reactant | 1,3-Dihydro-4′-[4-fluorophenylmethyl]-4-nitro-spiro[2H-isoindole-2,1′-piperidinium] bromide | 2.46 mmol, 1.03 g, 1.0 eq | [Br-].FC1=CC=C(C=C1)CC1CC[N+]2(CC1)CC1=CC=CC(=C1C2)[N+](=O)[O-]
reactant | calcium chloride | 1.60 mmol, 0.18 g, 0.65 eq | [Cl-].[Ca+2].[Cl-]
catalyst | zinc | 81.5 mmol, 5.32 g, 33.0 eq | [Zn] | Zn
solvent | ethanol water | C(C)O.O
product | 4-Amino-1, 3-dihydro-4′-[4-fluorophenylmethyl]-spiro[2H-isoindole-2,1′-piperidinium] bromide | 0.81 g | [Br-].NC1=C2C[N+]3(CCC(CC3)CC3=CC=C(C=C3)F)CC2=CC=C1 | InChI=1S/C20H24FN2.BrH/c21-18-6-4-15(5-7-18)12-16-8-10-23(11-9-16)13-17-2-1-3-20(22)19(17)14-23;/h1-7,16H,8-14,22H2;1H/q+1;/p-1
